US07144899B2
Step C: N-(tert-butoxycarbonyl)-4-methyl-D-leucyl-N1-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]-N2-cyclopropylglycinamide
A mixture of N1-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]-N2-cyclopropylglycinamide (50 mg, 0.16 mmol), N-(tert-butoxycarbonyl)-4-methyl-D-leucine (42 mg, 0.17 mmol), EDC (49 mg, 0.26 mmol) and HOAt (16 mg, 0.12 mmol) in DMF (1.4 mL) was stirred for 16 h at room temperature. The title compound was isolated by reverse phase HPLC as a white foam and was carried on directly to deprotection. LCMS (M+H): 534.1.

reactant | N1-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]-N2-cyclopropylglycinamide | 0.16 mmol, 50 mg | ClC=1C=CC(=C(CNC(CNC2CC2)=O)C1)N1N=NN=C1 | C13H15ClN6O
reactant | N-(tert-butoxycarbonyl)-4-methyl-D-leucine | 0.17 mmol, 42 mg | C(C)(C)(C)OC(=O)N[C@H](CC(C)(C)C)C(=O)O | C12H23NO4
reactant | EDC | 0.26 mmol, 49 mg
reactant | HOAt | 0.12 mmol, 16 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | DMF | 1.4 mL | CN(C)C=O | C3H7NO
product | N-(tert-butoxycarbonyl)-4-methyl-D-leucyl-N1-[5-chloro-2-(1H-tetraazol-1-yl)benzyl]-N2-cyclopropylglycinamide | C(C)(C)(C)OC(=O)N[C@H](CC(C)(C)C)C(=O)N(CC(=O)NCC1=C(C=CC(=C1)Cl)N1N=NN=C1)C1CC1 | C25H36ClN7O4
